US08217066B2
Step 3: 1-{4′-[4-(2-Methoxycarbonyl-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
1-{4′-[4-((E)-2-Methoxycarbonyl-vinyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (1.249 g, 2.89 mmol) and 10% palladium on carbon (0.135 g) were combined in EtOAc (25 mL) and stirred under H2 atmosphere for 4 hours. EtOH (25 mL) was added, along with additional 10% palladium on carbon (one spatula), and the reaction was stirred under H2 for 2 days, replacing the balloon of H2 as needed. When no starting material was seen by analytical LCMS, the mixture was filtered through Celite and the filtrate was concentrated to give the title compound.

reactant | 1-{4′-[4-((E)-2-Methoxycarbonyl-vinyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 2.89 mmol, 1.249 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)\C=C\C(=O)OC | C26H25NO5
reactant | EtOH | 25 mL | CCO | C2H6O
catalyst | palladium on carbon | 0.135 g | [Pd] | Pd
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-{4′-[4-(2-Methoxycarbonyl-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCC(=O)OC | C26H27NO5
